US08623520B2
Under an argon atmosphere, 37.6 g of triphenylenyl trifluoromethanesulfonate, 27.9 g of bis(pinacolato)diboron, 2.45 g of 1,1′-bis(diphenylphosphino)ferrocene palladium (II) dichloride dichloromethane complex, 1.66 g of 1,1′-bis(diphenylphosphino)ferrocene and 29.4 g of potassium acetate were placed in a flask. 600 mL of anhydrous dioxane was added thereto, and the resultant was refluxed with stirring while heating for 8 hours. After cooling to room temperature, 300 mL of water was added to the reaction solution, followed by extraction with toluene. An aqueous phase was removed, and an organic phase was washed with water and saturated brine, and then dried with magnesium sulfate. Magnesium sulfate was removed and the solvent was distilled under reduced pressure. The resulting residue was purified by means of silica gel column chromatography, whereby 14.1 g (yield: 40%) of triphenylene-2-boronic acid picohal ester was obtained.

reactant | triphenylenyl trifluoromethanesulfonate | 37.6 g | FC(S(=O)(=O)OC1=CC=CC=2C3=CC=CC=C3C3=CC=CC=C3C12)(F)F | C19H11F3O3S
reactant | bis(pinacolato)diboron | 27.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 29.4 g | C(C)(=O)[O-].[K+]
reactant | dioxane | 600 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.66 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 300 mL | O | H2O
product | triphenylene-2-boronic acid | 14.1 g, yield: 40% | C1=C(C=CC=2C3=CC=CC=C3C3=CC=CC=C3C12)B(O)O | C18H13BO2
